*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-155
* Inductance = 1500uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4018-155_freq port1 port2 PARAMS: Cpar=3.54pF Ind=1500uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=25
+ C= {Cpar}
+ K1=0.002
+ K2=330
+ K3= {Ind}
+ K4=20.2
+ K5=0.0000116
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=395491.548
.ends LPZ4018-155_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-155
* Inductance = 1500uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-6MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4018-155_imp port1 port2 PARAMS: Cpar=3.386pF Ind=1500uH
X1 port1 port2 Model1D PARAMS:
+ R1=200
+ R2=25
+ C= {Cpar}
+ K1=0.002
+ K2=330
+ K3= {Ind}
+ K4=20.2
+ K5=0.0000116
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=395491.548
.ends LPZ4018-155_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-185
* Inductance = 1800uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4018-185_freq port1 port2 PARAMS: Cpar=3.65pF Ind=1800uH
X1 port1 port2 Model1A PARAMS:
+ R1=210
+ R2=31.5
+ C= {Cpar}
+ K1=0.021
+ K2=525
+ K3= {Ind}
+ K4=21.4
+ K5=0.000012
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=540142.751
.ends LPZ4018-185_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-185
* Inductance = 1800uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-4MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4018-185_imp port1 port2 PARAMS: Cpar=3.513pF Ind=1800uH
X1 port1 port2 Model1D PARAMS:
+ R1=210
+ R2=31.5
+ C= {Cpar}
+ K1=0.021
+ K2=525
+ K3= {Ind}
+ K4=21.4
+ K5=0.000012
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=540142.751
.ends LPZ4018-185_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-225
* Inductance = 2200uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4018-225_freq port1 port2 PARAMS: Cpar=3.49pF Ind=2200uH
X1 port1 port2 Model1A PARAMS:
+ R1=400
+ R2=32.5
+ C= {Cpar}
+ K1=0.022
+ K2=700
+ K3= {Ind}
+ K4=21.4
+ K5=0.0000135
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=569691.704
.ends LPZ4018-225_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-225
* Inductance = 2200uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-3MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4018-225_imp port1 port2 PARAMS: Cpar=3.381pF Ind=2200uH
X1 port1 port2 Model1D PARAMS:
+ R1=400
+ R2=32.5
+ C= {Cpar}
+ K1=0.022
+ K2=700
+ K3= {Ind}
+ K4=21.4
+ K5=0.0000135
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=569691.704
.ends LPZ4018-225_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-2MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPZ4018-335_freq port1 port2 PARAMS: Cpar=3.53pF Ind=3300uH
X1 port1 port2 Model1A PARAMS:
+ R1=430
+ R2=48
+ C= {Cpar}
+ K1=0.0058
+ K2=950
+ K3= {Ind}
+ K4=22.5
+ K5=0.0000194
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=746167.463
.ends LPZ4018-335_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPZ4018-335
* Inductance = 3300uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-2MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPZ4018-335_imp port1 port2 PARAMS: Cpar=3.449pF Ind=3300uH
X1 port1 port2 Model1D PARAMS:
+ R1=430
+ R2=48
+ C= {Cpar}
+ K1=0.0058
+ K2=950
+ K3= {Ind}
+ K4=22.5
+ K5=0.0000194
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=746167.463
.ends LPZ4018-335_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
